US04518602
A solution of 6-bromo-2-methylhexanoic acid (1.08 g, 5.17 mmole) and triphenylphosphine (1.42 g, 5.4 mmole) in toluene (5 ml) was heated under reflux for 18 hours. After the solution was cooled, the crystals which separated out were collected by filtration and washed with toluene and ethyl acetate to yield 5-carboxy-5-methylpentyltriphenylphosphonium bromide (1.6 g, 64%).

reactant | 6-bromo-2-methylhexanoic acid | 5.17 mmole, 1.08 g | BrCCCCC(C(=O)O)C | C7H13BrO2
reactant | triphenylphosphine | 5.4 mmole, 1.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-carboxy-5-methylpentyltriphenylphosphonium bromide | 1.6 g, 64% | [Br-].C(=O)(O)C(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C25H27O2P.BrH/c1-21(25(26)27)13-11-12-20-28(22-14-5-2-6-15-22,23-16-7-3-8-17-23)24-18-9-4-10-19-24;/h2-10,14-19,21H,11-13,20H2,1H3;1H
